US04016193
2-(3-nitro-4-hydroxyphenyl)propionic acid
In a mixture of 8ml of nitric acid and 15ml of acetic acid 1g of 2-(4-hydroxyphenyl)propionic acid was added and stirred at -10° to -20° C for 4 hours. The reaction mixture was poured into ice water and extracted with chloroform. The extract was washed with a sodium hydrogen carbonate solution and water and then dried over magnesium sulfate. The chloroform solution was concentrated to give crystals, which were recrystallized from water. Yield, 700 mg (58%).

reactant | 2-(4-hydroxyphenyl)propionic acid | OC1=CC=C(C=C1)C(C(=O)O)C | C9H10O3
reactant | nitric acid | 8ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15ml | C(C)(=O)O | C2H4O2
product | 2-(3-nitro-4-hydroxyphenyl)propionic acid | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(=O)O)C | C9H9NO5
